US06310056B1
To a solution of 334.6 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-t-butyldimethylsilyloxymethylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 10 ml of THF were added 0.28 ml of acetic acid and 1.64 ml of a 1 M solution of tetra-n-butylammonium fluoride in THF, and the mixture was stirred at room temperature for 2.5 hours. After the reaction mixture was adjusted to pH 8.2 with a saturated aqueous sodium hydrogen carbonate solution, it was extracted twice with ethyl acetate, and semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (ethyl acetate:methanol=9:1) to give 183 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxylmethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-(7-t-butyldimethylsilyloxymethylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 334.6 mg | [Si](C)(C)(C(C)(C)C)OCC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C29H36N4O7SSi
reactant | acetic acid | 0.28 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxylmethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 183 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C23H22N4O7S
